US05003055
(a) Preparation of benzhydryl protocatechuate
Ethyl acetate (2.5 ml) was mixed with 50.0 mg of protocatechuic acid and 63.0 mg of diphenyldiazomethane to form a solution. The solution was left over at room temperature for 2 hours. Diphenyldiazomethane (25.8 mg) was added further and the resultant mixture was left over at room temperature for 2 hours. The pale reddish purple-colored reaction solution was concentrated under reduced pressure, and the colorless residue obtained was purified by chromatography on a silica gel column {developer: chloroform - chloroform-methanol (30:1)} to obtain 58.1 mg of the titled compound as a colorless syrup. EIMS: m/z 320 (M+).

reactant | protocatechuic acid | 50.0 mg | C(C1=CC(O)=C(O)C=C1)(=O)O | C7H6O4
reactant | diphenyldiazomethane | 63.0 mg | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | Diphenyldiazomethane | 25.8 mg | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | Ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl protocatechuate | 58.1 mg | C(C1=CC(O)=C(O)C=C1)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O4
